US06407112B1
(RS)-2a-(3-ethoxycarbonylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
(RS)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (8.65 g, 50 mmol) was dissolved in anhydrous N,N,-dimethylformamide (70 ml). Then, 60% sodium hydride (2.0 g, 50 mmol) was added thereto and the resulting mixture was stirred at room temperature for 1 hour. Successively the reaction mixture obtained was cooled to −20° C., and ethyl 3-bromobutyrate (7.15 ml, 50 mmol) was added thereto. The resulting mixture was stirred at room temperature for further 18 hours. Ethyl acetate and water were added thereto to extract a reaction product. The ethyl acetate solution was washed with saturated saline solution and then dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure to obtain a reaction product. Thereafter, diisopropyl ether was added to the resulting reaction product to crystallized the same. Thus, the above-described object compound was obtained in an amount of 8.01 g (yield 56%).

reactant | (RS)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 50 mmol, 8.65 g | N1C(C2C=3C(=CC=CC13)CCC2)=O | C11H11NO
reactant | sodium hydride | 50 mmol, 2.0 g | [H-].[Na+]
reactant | ethyl 3-bromobutyrate | 50 mmol, 7.15 ml | BrC(CC(=O)OCC)C | C6H11BrO2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N,-dimethylformamide | 70 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-2a-(3-ethoxycarbonylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | yield 56% | C(C)OC(=O)CCCC12C(NC=3C=CC=C(C13)CCC2)=O | C17H21NO3
